US04235907
A mixture of 100 g of 1-benzoyl-3-oxopyrrolidin-4-carboxylic acid ethyl ester, 42 ml of aniline and 23 ml of formic acid in 1.2 liters of ethanol is heated to reflux for 15 hours, concentrated by evaporation and the residue is crystallised from the ether/methylene chloride. 3-Anilino-1-benzoyl-2,5-dihydro-1H-pyrrol-4-carboxylic acid ethyl ester is obtained. M.P. 149°-151°.

reactant | 1-benzoyl-3-oxopyrrolidin-4-carboxylic acid ethyl ester | 100 g | C(C)OC(=O)C1C(CN(C1)C(C1=CC=CC=C1)=O)=O | C14H15NO4
reactant | aniline | 42 ml | NC1=CC=CC=C1 | C6H7N
reactant | formic acid | 23 ml | C(=O)O | CH2O2
solvent | ethanol | 1.2 liters | C(C)O | C2H6O
product | 3-Anilino-1-benzoyl-2,5-dihydro-1H-pyrrol-4-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(CN(C1)C(C1=CC=CC=C1)=O)NC1=CC=CC=C1 | C20H20N2O3
